### PR TITLE
Flattening lemma for equifibered dependent span diagrams

### PR DESCRIPTION
**Pull request by fredrik-bakke**

### CODE REVIEW

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 1]
```diff
@@ -316,6 +321,51 @@ module _
...
+  is-retraction-map-inv-equiv-total-fiber' (.(f x) , x , refl) = refl
+
+  is-section-map-inv-equiv-total-fiber' :
+    is-section map-equiv-total-fiber' map-inv-equiv-total-fiber'
+  is-section-map-inv-equiv-total-fiber' x = refl
+
+  is-equiv-map-equiv-total-fiber' : is-equiv map-equiv-total-fiber'
+  is-equiv-map-equiv-total-fiber' =
+    is-equiv-is-invertible
+      map-inv-equiv-total-fiber'
```
Comment (VojtechStep) [inline src/foundation-core/fibers-of-maps.lagda.md]: Parentheses

File: src/synthetic-homotopy-theory/descent-data-pushouts.lagda.md [hunk 2]
```diff
@@ -140,11 +148,15 @@ module _
...
-    P ∘ horizontal-map-cocone _ _ c
-  pr1 (pr2 (descent-data-family-cocone-span-diagram P)) =
-    P ∘ vertical-map-cocone _ _ c
-  pr2 (pr2 (descent-data-family-cocone-span-diagram P)) s =
-    equiv-tr P (coherence-square-cocone _ _ c s)
+    {l5 : Level} → (X → UU l5) → descent-data-pushout 𝒮 l5 l5
+  descent-data-family-cocone-span-diagram P =
+    ( P ∘ horizontal-map-cocone _ _ c) ,
+    ( P ∘ vertical-map-cocone _ _ c) ,
+    ( equiv-tr P ∘ coherence-square-cocone _ _ c)
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/descent-data-pushouts.lagda.md]:
```suggestion
    ( ( P ∘ horizontal-map-cocone _ _ c) ,
      ( P ∘ vertical-map-cocone _ _ c) ,
      ( equiv-tr P ∘ coherence-square-cocone _ _ c))
```

File: src/synthetic-homotopy-theory/descent-data-pushouts.lagda.md [hunk 3]
```diff
@@ -140,11 +148,15 @@ module _
...
 ```
+
+## See also
+
+- [Equifibered dependent span diagrams](synthetic-homotopy-theory.equifibered-dependent-span-diagrams.md)
+  is a variant descent data for pushouts where an additional type family over
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/descent-data-pushouts.lagda.md]:
```suggestion
  is a variant of descent data for pushouts where an additional type family over
```

File: src/synthetic-homotopy-theory/equivalences-descent-data-pushouts.lagda.md [hunk 4]
```diff
@@ -255,18 +256,18 @@ module _
...
   equiv-eq-descent-data-pushout :
-    (Q : descent-data-pushout 𝒮 l4) →
+    (Q : descent-data-pushout 𝒮 l4 l5) →
     P ＝ Q → equiv-descent-data-pushout P Q
   equiv-eq-descent-data-pushout .P refl = id-equiv-descent-data-pushout P
 
   abstract
     is-torsorial-equiv-descent-data-pushout :
-      is-torsorial (equiv-descent-data-pushout {l5 = l4} P)
+      is-torsorial (equiv-descent-data-pushout {l6 = l4} {l7 = l5} P)
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/equivalences-descent-data-pushouts.lagda.md]: Binding the levels by name actually looks pretty awful, sorry I wrote it that way. Could you replace if with `is-torsorial (\ (Q : descent-data-pushout S l4 l5) -> equiv-descent-data-pushout P Q)`?

File: src/synthetic-homotopy-theory/universal-property-coequalizers.lagda.md [hunk 5]
```diff
@@ -204,11 +204,12 @@ module _
...
-        ( spanning-map-hom-span-diagram-cofork-hom-double-arrow a a'
-          ( hom-equiv-double-arrow a a' e))
-        ( domain-map-equiv-double-arrow a a' e)
-        ( codomain-map-equiv-double-arrow a a' e)
-        ( map-equiv-cofork-equiv-double-arrow c c' e e')
+        ( equiv-coproduct
+          ( domain-equiv-equiv-double-arrow a a' e)
+          ( domain-equiv-equiv-double-arrow a a' e))
+        ( domain-equiv-equiv-double-arrow a a' e)
+        (codomain-equiv-equiv-double-arrow a a' e)
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/universal-property-coequalizers.lagda.md]:
```suggestion
        ( codomain-equiv-equiv-double-arrow a a' e)
```

File: src/synthetic-homotopy-theory/mathers-second-cube-theorem.lagda.md
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/mathers-second-cube-theorem.lagda.md:1]: Do you want this to be merged with this partial formalization?

File: src/synthetic-homotopy-theory/flattening-lemma-pushouts.lagda.md [hunk 6]
```diff
@@ -240,6 +258,118 @@ module _
...
+  vertical-map-cocone-flattening-equifibered-dependent-span-diagram =
+    map-Σ Q
+      ( vertical-map-cocone f g c)
+      ( right-map-equiv-equifibered-dependent-span-diagram
+        ( P)
+        ( equifibered-dependent-span-diagram-family-cocone-span-diagram c Q)
+        ( e))
+```
+
+> The rest remains to be formalized.
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/flattening-lemma-pushouts.lagda.md:331]: Do you want to merge the PR with this unfinished?

File: src/synthetic-homotopy-theory/equifibered-dependent-sequential-diagrams.lagda.md
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/equifibered-dependent-sequential-diagrams.lagda.md:1]: The previous version of the PR said that the naming of equifibered stuff was still undecided. I'm still of the opinion that the `-dependent` in `equifibered-dependent-<shape>-diagram` is unnecessary (https://github.com/UniMath/agda-unimath/pull/1361#issuecomment-2726572333). I'd like to have this resolved before I review the two equifibered diagram files

File: src/foundation/fibers-of-maps.lagda.md [hunk 7]
```diff
@@ -141,6 +141,45 @@ module _
...
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} (f : A → B)
+  where
+
+  compute-tr-self-fiber :
+    {y : B} (u : fiber f y) → (pr1 u , refl) ＝ tr (fiber f) (inv (pr2 u)) u
+  compute-tr-self-fiber (._ , refl) = refl
+
+  inv-compute-tr-self-fiber :
```
Comment (VojtechStep) [inline src/foundation/fibers-of-maps.lagda.md:172]: I'd expect the `compute` and `inv-compute` to have give identifications in the opposite directions

File: src/synthetic-homotopy-theory/equivalences-equifibered-dependent-span-diagrams.lagda.md [hunk 8]
```diff
@@ -0,0 +1,263 @@
...
+  where
+
+  id-equiv-equifibered-dependent-span-diagram :
+    equiv-equifibered-dependent-span-diagram P P
+  id-equiv-equifibered-dependent-span-diagram =
+    ( λ _ → id-equiv) ,
+    ( λ _ → id-equiv) ,
+    ( λ _ → id-equiv) ,
+    ( λ _ → refl-htpy) ,
+    ( λ _ → refl-htpy)
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/equivalences-equifibered-dependent-span-diagrams.lagda.md]:
```suggestion
    ( ( λ _ → id-equiv) ,
      ( λ _ → id-equiv) ,
      ( λ _ → id-equiv) ,
      ( λ _ → refl-htpy) ,
      ( λ _ → refl-htpy))
```

File: src/foundation/fibers-of-maps.lagda.md (hunk 7 above)
Comment (fredrik-bakke) [reply src/foundation/fibers-of-maps.lagda.md:172]: Since `compute-tr-fiber` already captures the opposite direction I'm locked into these names currently. For the record, I believe the library is not consistent on the "directionality" of computation, and I know for a fact that part of it uses the same direction as displayed here.

File: src/synthetic-homotopy-theory/flattening-lemma-pushouts.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/flattening-lemma-pushouts.lagda.md:331]: Yes

File: src/synthetic-homotopy-theory/mathers-second-cube-theorem.lagda.md
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/mathers-second-cube-theorem.lagda.md:1]: Sure, I think the informal exlanation and diagram is valuable.

File: src/synthetic-homotopy-theory/equifibered-dependent-sequential-diagrams.lagda.md
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/equifibered-dependent-sequential-diagrams.lagda.md:1]: Ah, I see, I must've forgotten/misunderstood your previous comment!

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/equifibered-dependent-sequential-diagrams.lagda.md:1]: Fixed now.

**Review by VojtechStep — APPROVED** [review]
